US05420293
N-(4-methoxyphenylcarbonyl)-5-(trifluoromethyl)-5-methylpyrrolidin-2-one
5.0 g (0.03 mol) of 5-(trifluoromethyl)-5-methylpyrrolidin-2-one in 10 ml of dioxane are stirred with 3.3 g of triethylamine and 6.8 g (0.04 mol) of anisoyl chloride for 16 h at 110°-120° C. The solid which precipitates is filtered off with suction and the salt is washed with a little dioxane. The dioxane solution is stirred into 50 ml of water and the organic phase is separated off with the addition of a little methylene chloride. After stripping off the solvent, the residue is a brownish solid which is recrystallized from ligroin.

reactant | 5-(trifluoromethyl)-5-methylpyrrolidin-2-one | 0.03 mol, 5.0 g | FC(C1(CCC(N1)=O)C)(F)F | C6H8F3NO
reactant | triethylamine | 3.3 g | C(C)N(CC)CC | C6H15N
reactant | anisoyl chloride | 0.04 mol, 6.8 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-(4-methoxyphenylcarbonyl)-5-(trifluoromethyl)-5-methylpyrrolidin-2-one | COC1=CC=C(C=C1)C(=O)N1C(CCC1(C)C(F)(F)F)=O | C14H14F3NO3
